Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:14])[C@:4]1([C+:5]=[C:6]([O-:7])[H:15])[H:13])([H:8])([H:9])[H:10],77.3723060106647
[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[C:7]([H:15])=[C:6]=[C:4]1[O:5][H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],88.4215502470292
[C:1]([C:2](=[C:7]([C:6](=[C:4]=[O+:5][O-:3])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],6.16880337549901
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]1[C:6]([H:11])([H:12])[C@:5]2([H:10])[O:4][C:3]([H:8])([H:9])[C@:7]12[H:13],82.8175645777651
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:4](=[C:3]=[N:7][N:6]=[N:5][H:9])[H:8],109.95713475628901
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:12])([H:13])[C:4]1([O:6][C:5]([H:11])([H:14])[H:15])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10],89.8926014880058
[C:1](=[C:2](/[C:5](=[C:6](\[C:3]#[C:4][H:11])[H:12])[H:9])[H:10])([H:7])[H:8]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],132.8026638162322
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[O+:6]1.[H:7][H:8],103.367015373038
[C-:3]#[C:4][C+:5]=[N:6][H:7].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],16.406843000708207
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[O:3])([H:9])[H:10].[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])([O:7][H:17])[H:8],77.1239727461334
[C-:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[C+:6][H:16].[C:1]([C:4]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],55.390215414192795
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]1([H:7])([H:8])[C:2]([H:10])=[C:3]1[C:6]([H:9])([H:15])[H:16].[C:4](=[C:5]([H:13])[H:14])([H:11])[H:12],102.8697357636
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C@@:6]12[C:7][H:17])([H:8])([H:9])[H:10],75.8315393816837
[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12],124.124448840747
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]1([H:7])[C:2]2([C:3]([H:9])([H:10])[C:4]2([H:11])[H:12])/[C:5]1=[N:6]/[H:8],84.1635197769393
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][O:7][C@:6]1([H:13])[C:3](=[O:4])[C:5]1([H:11])[H:12])([H:8])([H:9])[H:10],112.428787001159
[C:3](=[C:4]([C:5](=[O:6])[H:12])[H:11])([H:8])[H:9].[H:7][H:10].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],27.250755415599496
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[O:6][C@@:7]1([C:5][H:11])[H:12],97.0670789704802
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C+:1]1([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[C-:7][H:17].[H:8][H:10],97.33722687280279
[C-:1]([N:2]([C+:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])[H:9].[C:6](#[N:7])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],7.027932119445602
[C:1]([C:2]([C:4](=[C:3])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7],13.910578585257703
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([N+:7]#[C-:6])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],72.7430728677999
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C-:2]=[C:3]([C+:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],65.0016965231279
